US06919353B2
N-Isopropyl-2-(4-methanesulfonyl-phenyl)-acetamide
To a solution of (4-methanesulfonyl-phenyl)-acetic acid (2.5 g, 11.7 mmol) in CH2Cl2 (20 mL) was added EDCI (2.46 g, 12.9 mmol) followed by diisopropyl amine (1.2 mL) and DMAP (140 mg, 1.2 mmol). After 18 h at 21° C., the resulting reaction mixture was diluted with a saturated ammonium chloride solution and ethyl acetate. The organic extracts were washed (H2O, brine), dried (MgSO4), filtered and concentrated. Purification by flash chromatography (eluting with hexane/ethyl acetate/THF, 35:60:5) provided the title compound as a white solid.

reactant | (4-methanesulfonyl-phenyl)-acetic acid | 11.7 mmol, 2.5 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | EDCI | 12.9 mmol, 2.46 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | diisopropyl amine | 1.2 mL | C(C)(C)NC(C)C | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.2 mmol, 140 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Isopropyl-2-(4-methanesulfonyl-phenyl)-acetamide | C(C)(C)NC(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C12H17NO3S
